US07576215B2
[4-[3-({[2-(METHYLTHIO)BENZYL]AMINO}METHYL)PHENYL]-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE
The title compound was prepared from 3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]benzaldehyde and 2-methylthio benzylamine according to the procedure of Example 66. MS (ES) m/z 543.2.

reactant | 3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]benzaldehyde | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=O)C=CC1)C(F)(F)F | C24H14F3NO2
reactant | 2-methylthio benzylamine | CSC1=C(CN)C=CC=C1 | C8H11NS
product | [4-[3-({[2-(METHYLTHIO)BENZYL]AMINO}METHYL)PHENYL]-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)METHANONE | CSC1=C(CNCC=2C=C(C=CC2)C2=C(C=NC3=C(C=CC=C23)C(F)(F)F)C(=O)C2=CC=CC=C2)C=CC=C1 | C32H25F3N2OS
